data/oMe_Silver.jsonl
{"reaction_id": "NR-235_1-c1ccc(C(F)(F)F)cc1_2-F_3-C_4-Cl","level": "medium","name": "Smiles Rearrangement","reactants_smiles": ["c1ccc(C(F)(F)F)cc1NC(=O)C(F)(C)Oc1ccc(Cl)cc1","CC[O-]"],"products_smiles": ["c1ccc(C(F)(F)F)cc1N(c1ccc(Cl)cc1)C(=O)C(F)(C)O"],"conditions": "CCO","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(C(F)(F)F)cc1[N-]C(=O)C(F)(C)Oc1ccc(Cl)cc1","step_weight": 0,"rationale": "Ethanol’s conjugate base deprotonates the amide nitrogen, increasing its nucleophilicity via negative charge delocalization onto the carbonyl oxygen."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[CH-]1C2(C=CC(Cl)=C1)OC(F)(C)C(N2c1ccc(C(F)(F)F)cc1)=O","step_weight": 0,"rationale": "The nitrogen anion attacks the electron-deficient aromatic ring ortho/para to the ether linkage, favored by resonance stabilization of the Meisenheimer complex."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc(C(F)(F)F)cc1N(c1ccc(Cl)cc1)C(=O)C(F)(C)[O-]","step_weight": 0,"rationale": "The intermediate collapses, expelling the alkoxide leaving group to restore aromaticity, a strong thermodynamic driving force."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(C(F)(F)F)cc1N(c1ccc(Cl)cc1)C(=O)C(F)(C)O","step_weight": 0,"rationale": "The alkoxide oxygen is protonated by solvent ethanol, yielding the neutral hydroxyacetamide product."}],"description": "Under basic ethanol conditions, the amide nitrogen is deprotonated to form a strong nucleophile. This anion attacks the electron-deficient aromatic ring intramolecularly, forming a Meisenheimer complex. Collapse of this intermediate expels the alkoxide, restoring aromaticity, and protonation yields the rearranged hydroxyacetamide."}
{"reaction_id": "NR-071_1-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_2-C_3-C_4-CCCC(C)C_5-CCCC(C)C_6-C(F)(F)F_7-C(C)(C)C","name": "Evans-Mislow Rearrangement","level": "medium","reactants_smiles": ["C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C)=C(C)C(CCCC(C)C)(CCCC(C)C)S(=O)(C(F)(F)F)","O(C(C)(C)C)P(O(C(C)(C)C))O(C(C)(C)C)"],"products_smiles": ["OC(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C)C(C)=C(CCCC(C)C)(CCCC(C)C)"],"conditions": "P(OR)3","mechnism_text_description": "The reaction proceeds via a [2,3]-sigmatropic rearrangement of the allylic sulfoxide to form an allylic sulfenate ester intermediate. This intermediate is then trapped by a thiophilic reagent, trialkyl phosphite, which attacks the sulfur atom. This attack results in the cleavage of the S-O bond to form an alkoxide. Subsequent protonation of the alkoxide yields the final allylic alcohol product.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "S(C(F)(F)F)OC(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C)C(C)=C(CCCC(C)C)(CCCC(C)C)","step_weight": 0,"rationale": "The [2,3]-sigmatropic rearrangement proceeds via a concerted pericyclic pathway, driven by favorable orbital overlap and stabilization of the developing charges through conjugation with the allylic system."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[O-]C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C)C(C)=C(CCCC(C)C)(CCCC(C)C)","step_weight": 0,"rationale": "Trialkyl phosphite, being a strong nucleophile toward soft electrophiles, attacks the sulfur atom, exploiting sulfur’s polarizability and leading to S–O bond cleavage to form a stabilized alkoxide."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OC(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C)C(C)=C(CCCC(C)C)(CCCC(C)C)","step_weight": 0,"rationale": "The alkoxide is protonated under the reaction conditions to yield the neutral allylic alcohol, driven by the thermodynamic stability of the alcohol and the availability of proton sources."}],"description": "The reaction involves a [2,3]-sigmatropic rearrangement of the allylic sulfoxide to generate a sulfenate ester, which is then attacked by trialkyl phosphite at sulfur due to its thiophilicity. This cleavage yields an alkoxide, which is protonated to form the allylic alcohol."}
